### PR TITLE
feat(untyped): standardization theorem for the lambda calculus

### PR DESCRIPTION
**Pull request by m-ow**
This PR proves the standardization theorem: if `M` beta-reduces to `N` in any number of steps, then `N` is reachable from `M` by a standard reduction.

Builds on #671.

### CODE REVIEW

**Comment by lengyijun** [comment]
Looking for your next pr !
I will start to prove "two variables are not enough" soon
This pr is very important for me

**Comment by lengyijun** [comment]
Could you share your next PR related to "leftmost reduction"? 
I would like to base the development of the Fokker Challenge on your code.

**Comment by m-ow** [comment]
Hi! @lengyijun My branch is still a bit too messy to share right now, but I expect to open the PR very soon.
Sorry for the wait, and thanks for bearing with me!

**Comment by m-ow** [comment]
opened #700 :)

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/CallByName.lean [hunk 1]
```diff
@@ -31,18 +31,44 @@ inductive CBN : Term Var → Term Var → Prop
...
+variable {M M' N N' : Term Var}
 
-/-- The left side of a CBN reduction step is locally closed. -/
+/-- The left side of a Call-by-Name step is locally closed. -/
 lemma CBN.lc_l (step : M ⭢ₙ N) : LC M := by
   induction step with grind
 
+/-- A single Call-by-Name step is a full β-reduction. -/
+lemma CBN.step_to_redex (step : M ⭢ₙ N) : M ↠βᶠ N := by
+  induction step <;> grind [FullBeta.redex_app_l_cong, Relation.ReflTransGen.single]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/CallByName.lean]: Something I recently have been more strict about is trying not to not is golf proofs of the form
```lean
induction foo
· grind [bar]
· grind [baz]
```
into a single `induction foo <;> grind [bar, baz]` for readability and performance reasons.

So I'd write at least

```suggestion
  induction step with
  · grind [Relation.ReflTransGen.single]
  · grind [FullBeta.redex_app_l_cong]
```
(or even be tempted to not use `grind` at all for such a short proof)

This same idea applies to other proofs in this file.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean [hunk 2]
```diff
@@ -58,6 +60,171 @@ lemma Standard.lc_r (step : M ⭢ₛ N) : LC N := by
...
   all_goals grind
 
+/-- A single Call-by-Name step is a standard reduction. -/
+lemma Standard.of_cbn_step (step : M ⭢ₙ N) (lc_N : LC N) : M ⭢ₛ N := by
+  induction step
+  case base h_beta =>
+    cases h_beta
+    exact rdx (by assumption) (by assumption) .refl (lc_refl _ lc_N)
+  case app L _ _ lc_L _ ih =>
+    exact app (ih (by cases lc_N; assumption)) (lc_refl L lc_L)
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean]: I'd at least do

```suggestion
    cases lc_N
    exact app (ih (by assumption)) (lc_refl L lc_L)
```
for readability. It'd also be easy to make the `assumption` usages explicit if you'd like.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean [hunk 3]
```diff
@@ -58,6 +60,171 @@ lemma Standard.lc_r (step : M ⭢ₛ N) : LC N := by
...
+lemma Standard.cbn_step_trans (step : M ⭢ₙ P) (std : P ⭢ₛ N) : M ⭢ₛ N := by
+  induction step generalizing N
+  case base h_beta =>
+    cases h_beta
+    exact rdx (by assumption) (by assumption) .refl std
+  case app step_M ih =>
+    cases std with
+    | app std_L' std_M => exact app (ih std_L') std_M
+    | rdx _ lc_Z cbn_m std_body =>
+      exact rdx (CBN.lc_l step_M) lc_Z (.head step_M cbn_m) std_body
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean]: Fits on one line?

```suggestion
    | rdx _ lc_Z cbn_m std_body => exact rdx (CBN.lc_l step_M) lc_Z (.head step_M cbn_m) std_body
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean [hunk 4]
```diff
@@ -58,6 +60,171 @@ lemma Standard.lc_r (step : M ⭢ₛ N) : LC N := by
...
+  case app ihL ihM =>
+    rw [Term.subst_app]
+    exact app (ihL hN lc_N lc_N') (ihM hN lc_N lc_N')
+  case abs m m' _ _ ih =>
+    simp only [Term.subst_abs]
+    apply abs <| free_union [fv] Var
+    intro y hy
+    have h_neq : x ≠ y := by aesop
+    rw [← Term.subst_open_var y x N m h_neq lc_N, ← Term.subst_open_var y x N' m' h_neq lc_N']
+    exact ih y (by aesop) hN lc_N lc_N'
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean]: We prefer `grind` to `aesop`

```suggestion
    have h_neq : x ≠ y := by grind
    rw [← Term.subst_open_var y x N m h_neq lc_N, ← Term.subst_open_var y x N' m' h_neq lc_N']
    exact ih y (by grind) hN lc_N lc_N'
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean [hunk 5]
```diff
@@ -58,6 +60,171 @@ lemma Standard.lc_r (step : M ⭢ₛ N) : LC N := by
...
+  case rdx n m' _ lc_m lc_n cbn_m std_p ih =>
+    rw [Term.subst_app]
+    have std_p_subst := ih hN lc_N lc_N'
+    rw [Term.subst_open x N n m' lc_N] at std_p_subst
+    exact rdx (Term.subst_lc (x := x) lc_m lc_N) (Term.subst_lc (x := x) lc_n lc_N)
+      (CBN.steps_subst x cbn_m lc_N) std_p_subst
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean]: No need for the implicits here, can fit on one line:

```suggestion
    exact rdx (subst_lc lc_m lc_N) (subst_lc lc_n lc_N) (CBN.steps_subst x cbn_m lc_N) std_p_subst
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean [hunk 6]
```diff
@@ -58,6 +60,171 @@ lemma Standard.lc_r (step : M ⭢ₛ N) : LC N := by
...
+/-- A single full β-step is a standard reduction. -/
+lemma Standard.of_beta_step (step : M ⭢βᶠ N) (lc_M : LC M) : M ⭢ₛ N := by
+  induction step
+  case base h_beta =>
+    cases h_beta
+    exact rdx (by assumption) (by assumption) .refl
+      (lc_refl _ (Term.beta_lc (by assumption) (by assumption)))
+  case appL A B _ _ _ =>
+    have : LC A := by cases lc_M; assumption
+    apply Standard.app <;> grind [lc_refl]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean]: You can write

```suggestion
    cases lc_M
    apply Standard.app <;> grind [lc_refl]
```
or even

```suggestion
    apply Standard.app <;> grind [cases LC, lc_refl]
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean [hunk 7]
```diff
@@ -58,6 +60,171 @@ lemma Standard.lc_r (step : M ⭢ₛ N) : LC N := by
...
+  case appR A _ _ _ _ =>
+    have : LC A := by cases lc_M; assumption
+    apply Standard.app <;> grind [lc_refl]
+  case abs ih =>
+    apply Standard.abs <| free_union [fv] Var
+    intro x hx
+    exact ih x (by aesop) (Term.beta_lc lc_M (by constructor))
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean]:
```suggestion
    exact ih x (by grind) (Term.beta_lc lc_M (by constructor))
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean [hunk 8]
```diff
@@ -58,6 +60,171 @@ lemma Standard.lc_r (step : M ⭢ₛ N) : LC N := by
...
+  induction step
+  case fvar => rfl
+  case app step_L step_M ih_L ih_M =>
+    exact .trans (FullBeta.redex_app_l_cong ih_L (Standard.lc_l step_M))
+      (FullBeta.redex_app_r_cong ih_M (Standard.lc_r step_L))
+  case abs xs _ ih => exact FullBeta.redex_abs_cong xs ih
+  case rdx n m' _ lc_m lc_n cbn_m std_p ih =>
+    have step1 := FullBeta.redex_app_l_cong (CBN.to_redex cbn_m) lc_n
+    have step2 : Term.app (Term.abs m') n ↠βᶠ (m' ^ n) :=
+      .single (Xi.base (Beta.beta (CBN.steps_lc_r lc_m cbn_m) lc_n))
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean]: In general, I think it'd be nicer to use the `Term` namespace to your advantage for formatting

```suggestion
    have step2 : m'.abs.app n ↠βᶠ m' ^ n := .single (.base (.beta (CBN.steps_lc_r lc_m cbn_m) lc_n))
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean [hunk 9]
```diff
@@ -58,6 +60,171 @@ lemma Standard.lc_r (step : M ⭢ₛ N) : LC N := by
...
+
+/-- Standard reduction of abstractions is preserved by opening. -/
+lemma Standard.abs_subst
+    (h_abs : Term.abs M ⭢ₛ Term.abs M') (hN : N ⭢ₛ N') (lc_N : LC N) (lc_N' : LC N') :
+    (M ^ N) ⭢ₛ (M' ^ N') := by
+  cases h_abs
+  case abs h_body =>
+    have ⟨y, _⟩ := fresh_exists <| free_union [fv] Var
+    have h_subst := Standard.subst (h_body y (by aesop)) hN y lc_N lc_N'
+    rw [← Term.subst_intro y N M (by aesop), ← Term.subst_intro y N' M' (by aesop)] at h_subst
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean]:
```suggestion
    have h_subst := Standard.subst (h_body y (by grind)) hN y lc_N lc_N'
    rw [← Term.subst_intro y N M (by grind), ← Term.subst_intro y N' M' (by grind)] at h_subst
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean [hunk 10]
```diff
@@ -58,6 +60,171 @@ lemma Standard.lc_r (step : M ⭢ₛ N) : LC N := by
...
+lemma Standard.trans_step (h1 : M ⭢ₛ P) (h2 : P ⭢βᶠ N) : M ⭢ₛ N := by
+  induction h1 generalizing N
+  case fvar => contradiction
+  case rdx lc_L lc_M cbn _ ih => exact Standard.rdx lc_L lc_M cbn (ih h2)
+  case abs p_body ih =>
+    cases h2
+    case abs ih_beta =>
+      apply Standard.abs <| free_union [fv] Var
+      intro y hy
+      exact ih y (by aesop) (ih_beta y (by aesop))
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean]:
```suggestion
      exact ih y (by grind) (ih_beta y (by grind))
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean [hunk 11]
```diff
@@ -58,6 +60,171 @@ lemma Standard.lc_r (step : M ⭢ₛ N) : LC N := by
...
+    (M ^ N) ⭢ₛ (M' ^ N') := by
+  cases h_abs
+  case abs h_body =>
+    have ⟨y, _⟩ := fresh_exists <| free_union [fv] Var
+    have h_subst := Standard.subst (h_body y (by aesop)) hN y lc_N lc_N'
+    rw [← Term.subst_intro y N M (by aesop), ← Term.subst_intro y N' M' (by aesop)] at h_subst
+    exact h_subst
+
+/-- A standard reduction followed by a full β-step is a standard reduction. -/
+lemma Standard.trans_step (h1 : M ⭢ₛ P) (h2 : P ⭢βᶠ N) : M ⭢ₛ N := by
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean:170]: Maybe it would be useful to have instances for these like `Trans (· ⭢ₛ · : Term Var → Term Var → Prop) (· ⭢βᶠ ·) (· ⭢ₛ ·)`  in this case? Just a thought for later.

**Review by chenson2018 — CHANGES_REQUESTED** [review]
This seems straightforward, just some style nitpicks.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean (hunk 11 above)
Comment (m-ow) [reply Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean:170]: Good idea, added!

**Comment by m-ow** [comment]
Thanks a lot for the review! Let me know if anything else needs changing.

**Review by chenson2018 — APPROVED** [review]
@m-ow Thanks! I did a little bit of miscellaneous cleanups myself, in the hope of getting to your next PR a bit quicker. You might have a look for future reference.
